US07488739B2
Potassium carbonate and iodocyclopentane were added to a DMF solution of ethyl 6,7-difluoro-4-hydroxycinnoline-3-carboxylate, for stirring at 80° C. for 40 minutes, to obtain ethyl 1-cyclopentyl-6,7-difluoro-4-oxo-1,4-dihydrocinnoline-3-carboxylate.

reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | iodocyclopentane | IC1CCCC1 | C5H9I
reactant | ethyl 6,7-difluoro-4-hydroxycinnoline-3-carboxylate | FC=1C=C2C(=C(N=NC2=CC1F)C(=O)OCC)O | C11H8F2N2O3
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 1-cyclopentyl-6,7-difluoro-4-oxo-1,4-dihydrocinnoline-3-carboxylate | C1(CCCC1)N1N=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C16H16F2N2O3
